US04008209
a. Preparation of Z-D-Nva-OH
In the routine manner, H-D-Nva-OH is reacted with carbobenzoxy chloride in 2 N sodium hydroxide and the resultant compound is recrystallized from ethyl acetatepetroleum benzine. The procedure gives needles melting at 83°-84° C.

reactant | H-D-Nva-OH | N[C@H](CCC)C(=O)O | C5H11NO2
reactant | carbobenzoxy chloride | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | sodium hydroxide | 2 N | [OH-].[Na+]
product | Z-D-Nva-OH | N([C@H](CCC)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
